US06133271
With the procedure of Example 1, the reaction of 3,4-ethylenedioxyphenethylamine with 4-chloro-2-(pyridin-2-yl)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine yields 2-(pyridin-2-yl)-4-(3,4-ethylenedioxyphenethylamino)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-ethylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2OC1 | C10H13NO2
reactant | 4-chloro-2-(pyridin-2-yl)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CC=C1)SC(=C2C)C | C13H10ClN3S
product | 2-(pyridin-2-yl)-4-(3,4-ethylenedioxyphenethylamino)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | N1=C(C=CC=C1)C=1N=C(C2=C(N1)SC(=C2C)C)NCCC2=CC1=C(C=C2)OCCO1 | C23H22N4O2S
